US08309562B2
N4-(4-Methoxy-phenyl)-6,N2,N4-trimethyl-quinazoline-2,4-diamine
A solution of (2-chloro-6-methyl-quinazolin-4-yl)-(4-methoxyphenyl)-methyl-amine (62.9 mg, 0.20 mmol), methylamine hydrochloride (145.8 mg, 2.2 mmol) and Na2CO3 (234.5 mg, 2.2 mmol) in i-PrOH (2 mL) was heated to 100° C. overnight. After cooling to room temperature the reaction mixture was concentrated onto SiO2 and purified by gradient MPLC (SiO2, 0 to 20% MeOH/CH2Cl2 with 0.1% NH4OH, 20 min). 20.3 mg (33%) of the title compound was obtained: 1H NMR (DMSO-d6, 90° C.) δ 7.93 (br s, 1 H), 7.38-7.52 (m, 2 H), 7.33 (d, 2 H), 7.08 (d, 2 H), 6.39 (s, 1 H), 3.83 (s, 3 H), 3.62 (s, 3 H), 3.06 (s, 3 H), 1.96 (s, 3 H). HRMS (ES) calcd for C18H21N4O [(M+H)] 309.1710, found 309.1714.

reactant | (2-chloro-6-methyl-quinazolin-4-yl)-(4-methoxyphenyl)-methyl-amine | 0.20 mmol, 62.9 mg | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)C | C17H16ClN3O
reactant | methylamine hydrochloride | 2.2 mmol, 145.8 mg | Cl.CN
reactant | Na2CO3 | 2.2 mmol, 234.5 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | N4-(4-Methoxy-phenyl)-6,N2,N4-trimethyl-quinazoline-2,4-diamine | 20.3 mg, 33% | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=C(C=C12)C)NC)C | C18H20N4O
